US03994885
To 25 ml of tetrahydrofuran was added 2 ml of a 1.8 molar solution of methyl lithium in ether. The solution was cooled to 0° C. and 4 ml of methanol were added to the solution. The solution was then cooled to -80° C and 468 mg of acetoxymethyl 7-[2-(2-thienyl)acetamido]-3-acetoxymethyl-3-cephem-4-carboxylate were added, followed by the addition of 0.143 ml of t-butylhypochlorite. The cold reaction mixture was stirred for 25 minutes and was thereafter diluted with 4 ml of glacial acetic acid. The acidified reaction mixture was evaporated to dryness and the residual reaction product mixture was dissolved in dichloromethane. The solution was washed consecutively with a saturated solution of sodium chloride, a dilute solution of sodium thiosulfate, a saturated solution of sodium bicarbonate, and finally with a saturated solution of sodium chloride. The washed solution was dried and was then evaporated to dryness. The residue was chromatographed on preparative thin layer silica gel plates using benzene-ethyl acetate (7:3). The location of separated materials on the chromatogram was determined with an ultraviolet lamp. The reaction product was eluted from the silica gel with acetone. The acetone was evaporated to yield 202 mg of acetoxymethyl 7-methoxy-7-[2-(2-thienyl)acetamido]-3-acetoxymethyl-3-cephem-4-carboxylate.

reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | methyl lithium | C[Li]
reactant | acetoxymethyl 7-[2-(2-thienyl)acetamido]-3-acetoxymethyl-3-cephem-4-carboxylate | 468 mg | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)OCOC(C)=O)C1=O | C19H20N2O8S2
reactant | t-butylhypochlorite | 0.143 ml | C(C)(C)(C)OCl | C4H9ClO
solvent | ether | CCOCC | C4H10O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 4 ml | CO | CH4O
product | acetoxymethyl 7-methoxy-7-[2-(2-thienyl)acetamido]-3-acetoxymethyl-3-cephem-4-carboxylate | 202 mg | COC1([C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)OCOC(C)=O)C1=O)NC(CC=1SC=CC1)=O | C20H22N2O9S2
